### PR TITLE
feat(Combinatorics/SimpleGraph/Acyclic): deleting leaves from a tree gives a tree

### PR DESCRIPTION
**Pull request by whocares-abt**
Added theorem stating Deleting a leaf from a tree produces a tree.

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -565,6 +559,13 @@ lemma Connected.exists_preconnected_induce_compl_singleton_of_finite [Finite V]
   obtain ⟨v, hv⟩ := hconn.exists_connected_induce_compl_singleton_of_finite_nontrivial
   exact ⟨v, hv.preconnected⟩
 
+/-- Removing a leaf from a tree gives another tree. -/
+lemma IsTree.tree_if_removed_leaf (v : V) [Fintype ↑(G.neighborSet v)]
+(h1 : G.IsTree) (h2 : G.degree v = 1) : (G.induce {v}ᶜ).IsTree := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Use `h\1` (subscript) instead of `h1`. Also spacing to match mathlib style.
```suggestion
    (h₁ : G.IsTree) (h₂ : G.degree v = 1) : (G.induce {v}ᶜ).IsTree := by
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -565,6 +559,13 @@ lemma Connected.exists_preconnected_induce_compl_singleton_of_finite [Finite V]
...
+  constructor
+  · exact (Connected.induce_compl_singleton_of_degree_eq_one h1.isConnected) h2
+  · exact IsAcyclic.induce h1.IsAcyclic {v}ᶜ
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: I would just have this be a term-mode proof. Note that you can significantly shortern it by using dot notation when it's available. (I also changed the name isConnected -> connected IsAcylic -> isAcyclic since Yael just landed a change updating the names.)
```suggestion
  ⟨h₁.connected.induce_compl_singleton_of_degree_eq_one h₂, h₁.isAcyclic.induce {v}ᶜ⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -565,6 +559,13 @@ lemma Connected.exists_preconnected_induce_compl_singleton_of_finite [Finite V]
   obtain ⟨v, hv⟩ := hconn.exists_connected_induce_compl_singleton_of_finite_nontrivial
   exact ⟨v, hv.preconnected⟩
 
+/-- Removing a leaf from a tree gives another tree. -/
+lemma IsTree.tree_if_removed_leaf (v : V) [Fintype ↑(G.neighborSet v)]
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This name doesn't match mathlib's naming convention https://leanprover-community.github.io/contribute/naming.html

I am not expert in this domain, but I would probably use `IsTree.induce_compl_singleton_of_degree_eq_one` to match the Connected version.

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 4]
```diff
@@ -567,6 +567,11 @@ lemma Connected.exists_preconnected_induce_compl_singleton_of_finite [Finite V]
   obtain ⟨v, hv⟩ := hconn.exists_connected_induce_compl_singleton_of_finite_nontrivial
   exact ⟨v, hv.preconnected⟩
 
+/-- Removing a leaf from a tree gives another tree. -/
+lemma IsTree.induce_compl_singleton_of_degree_eq_one (v : V) [Fintype ↑(G.neighborSet v)]
+(h₁ : G.IsTree) (h₂ : G.degree v = 1) : (G.induce {v}ᶜ).IsTree :=
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]:
```suggestion
    (h₁ : G.IsTree) (h₂ : G.degree v = 1) : (G.induce {v}ᶜ).IsTree :=
```

**Review by vlad902 — COMMENTED** [review]
Once you've addressed review comments, you should mark them resolved on GitHub so the next reviewer knows they are no longer relevant.

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 5]
```diff
@@ -567,6 +567,11 @@ lemma Connected.exists_preconnected_induce_compl_singleton_of_finite [Finite V]
   obtain ⟨v, hv⟩ := hconn.exists_connected_induce_compl_singleton_of_finite_nontrivial
   exact ⟨v, hv.preconnected⟩
 
+/-- Removing a leaf from a tree gives another tree. -/
+lemma IsTree.induce_compl_singleton_of_degree_eq_one (v : V) [Fintype ↑(G.neighborSet v)]
+    (h₁ : G.IsTree) (h₂ : G.degree v = 1) : (G.induce {v}ᶜ).IsTree :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean:572]: This `Fintype` assumption is unnecessary. Could you instead define a predicate `G.IsLeaf v := \ex w, G.neighborSet v = {w}` and use it here?
```suggestion
lemma IsTree.induce_compl_singleton_of_isLeaf (v : V) (hG : G.IsTree) (hv : G.IsLeaf v) :
    (G.induce {v}ᶜ).IsTree :=
```

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean:572]: Can you generalise to removing arbitrarily many leaves?
```suggestion
/-- Removing leaves from a tree gives another tree. -/
lemma IsTree.induce_compl_of_degree_eq_one {s : Set V}
    (h₁ : G.IsTree) (h₂ : \for v \in s, G.degree v = 1) : (G.induce sᶜ).IsTree :=
```
